US07723368B2
A mixture of 1-(3-bromo-4-fluorophenyl)-2-[4-(difluoromethoxy)phenyl-]ethane-1,2-dione (2.1 g, 5.63 mmol), 2,6-dimethylpiperidine (10 mL), and ethynylcyclopropane (0.74 g, 11.27 mmol) was degassed with argon for 5 minutes. The reaction mixture was treated with tetrakis(triphenylphosphine) palladium (0) (327 mg, 0.28 mmol), stirred at 80° C. for 5 h, cooled to room temperature, poured into water and extracted with EtOAc. The extracts were combined, dried over MgSO4, and concentrated in vacuo. Purification of the resultant residue by ICSO (hexane/EtOAc 5/1) gave 1-[3-(cyclopropylethynyl)-4-fluorophenyl]-2-[4-(difluoromethoxy)phenyl]ethane-1,2-dione as a yellow oil solid (1.37 g);

reactant | 1-(3-bromo-4-fluorophenyl)-2-[4-(difluoromethoxy)phenyl-]ethane-1,2-dione | 5.63 mmol, 2.1 g | BrC=1C=C(C=CC1F)C(C(=O)C1=CC=C(C=C1)OC(F)F)=O | C15H8BrF3O3
reactant | 2,6-dimethylpiperidine | 10 mL | CC1NC(CCC1)C | C7H15N
reactant | ethynylcyclopropane | 11.27 mmol, 0.74 g | C(#C)C1CC1 | C5H6
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.28 mmol, 327 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | O | H2O
product | 1-[3-(cyclopropylethynyl)-4-fluorophenyl]-2-[4-(difluoromethoxy)phenyl]ethane-1,2-dione | C1(CC1)C#CC=1C=C(C=CC1F)C(C(=O)C1=CC=C(C=C1)OC(F)F)=O | C20H13F3O3
